US06211199B1
54.4 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(pyrid-4-yl)-3-(2-hydroxyethyl)pyrrolidine
Prepare by the method of Example 5.2.2 using 3-(pyrid-4-yl)-3-(2-hydroxyethyl)-pyrrolidine, 3,4,5-trimethoxybenzoyl chloride, and sodium bicarbonate to give the title compound: Rf=0.42 (silica gel, 8% methanol/dichloromethane).

reactant | 3-(pyrid-4-yl)-3-(2-hydroxyethyl)-pyrrolidine | N1=CC=C(C=C1)C1(CNCC1)CCO | C11H16N2O
reactant | 3,4,5-trimethoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-(3,4,5-trimethoxybenzoyl)-3-(pyrid-4-yl)-3-(2-hydroxyethyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(CCO)C2=CC=NC=C2)C=C(C1OC)OC | C21H26N2O5
